Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___
 
Chief Complaint:
Abdominal Pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ y/o M w. h/o DM2, c/b gastroparesis, who had pancreatic 
transplant in ___, also with frequent presentations 
with gastroparesis. He says that he woke up this morning and had 
very sharp abdominal pain, and started vomiting, he says that he 
has vomited over 60 times today, and now is dry heaving and 
clear fluid with blood streaks are coming up. Now p/w vomiting, 
nausea, severe abdominal pain c/w previous gastroparesis 
episodes. Non bilious emesis, no medications today, he tried to 
take them but could not keep them down. No fever but is c/o 
sweats, no HA, no visual changes. No known triggers. Patient had 
two episodes of diarrhea today, that were not bloody, he denies 
any recent constipation. No recent sick contacts, says up until 
this morning when the pain began he says he had been eating 
normaly. Also denies any constipation, dysuria/hematuria.
.
In the ED initial VS 98.7, 66, 151/112, RR22, 100%RA, Actively 
wretching on arrival. GI exam with diffuse abdominal tenderness, 
but soft. AG was 17. Got 1L of NS, getting another ___ liter 
with phos, and then maintenence fluids with bicarbonate. ___ 
NS with 50meq NaHCO3. One PIV.
 
Past Medical History:
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery 

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: T: , HR:62, BP:150/86, RR:16, O2 Sat:100%, BS:305
Gen: Patient hunched over in bed, retching into a basin
HEENT: MMM, sclerae anicteric
Neck: supple, no LAD
Lungs: CTA b/l
Chest: RRR, +S1/S2, no murmurs/rubs/gallops
Abdomen: +BS, soft, diffusely tender to palpation, no rebound or 
guarding, well healed midline scar
Ext: no edema
 
Pertinent Results:
___ 09:10AM BLOOD UreaN-27* Creat-1.2 Na-140 K-4.7 Cl-107 
HCO3-20* AnGap-18

___ 03:10PM BLOOD Glucose-191* UreaN-32* Creat-1.2 Na-139 
K-4.0 Cl-109* HCO3-13* AnGap-21*
___ 11:45PM BLOOD Glucose-114* UreaN-23* Creat-0.9 Na-142 
K-3.1* Cl-109* HCO3-20* AnGap-16
___ 05:45AM BLOOD Glucose-104 UreaN-21* Creat-0.8 Na-142 
K-3.9 Cl-109* HCO3-19* AnGap-18
___ 06:45AM BLOOD Glucose-97 UreaN-10 Creat-0.8 Na-144 
K-3.5 Cl-109* HCO3-24 AnGap-15

___ 06:45AM BLOOD WBC-5.8 RBC-3.92* Hgb-10.9* Hct-34.2* 
MCV-87 MCH-27.9 MCHC-31.9 RDW-13.2 Plt ___

___ 09:10AM BLOOD Albumin-4.5 Calcium-9.0 Phos-3.2
___ 03:10PM BLOOD Albumin-4.5 Calcium-9.3 Phos-0.7*# Mg-1.6
___ 05:45AM BLOOD Calcium-7.9* Phos-4.0 Mg-1.8
___ 06:45AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.7

___ 07:41PM BLOOD ___ pO2-67* pCO2-21* pH-7.49* 
calTCO2-16* Base XS--4 Comment-GREEN TOP 
___ 11:57PM BLOOD ___ pO2-192* pCO2-30* pH-7.42 
calTCO2-20* Base XS--3
___ 12:46PM BLOOD ___ pO2-99 pCO2-35 pH-7.41 
calTCO2-23 Base XS--1

___ 07:41PM BLOOD Lactate-2.9*
___ 11:57PM BLOOD Lactate-1.3
___ 12:46PM BLOOD Lactate-1.1

___ 09:10AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 09:46PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-150 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:32AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-TR Ketone-150 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

KUB: IMPRESSION: Normal radiographs of the abdomen.
 
Brief Hospital Course:
___ y/o M w/ h/o DM c/b gastroparesis, s/p pancreatic transplant 
p/w severe nausea, vomiting, now with a primary respiratory 
alkalosis with an acute metabolic acidosis, and an anion gap 
acidosis and abdominal pain c/w prior episodes of gastroparesis.
.
Brief Hospital Course By Problem: 
.
#) Abdominal Pain: per patient, the pain, nausea and vomiting 
were all consistent with prior gastroparesis flares.  The pain 
was severe, most intense in the epigastric region but his entire 
abdomen hurt.  Patient initially made npo, with IVF, IV dilaudid 
for pain control, and four anti-emetics (zofran, phenergen, 
compazine and reglan) for nausea and ativan for nausea/anxiety, 
a combination that had worked well in the past.  He was 
initially requiring about ___ of dilaudid over 24 hours for 
pain control.  KUB done on admission did not show any sign of 
obstruction.  Over the next ___ hours his pain and nausea 
improved and he was able to be transitioned to oral pain and 
nausea medications.  Additionally, as his pain/nausea improved 
he was able to restart all of his outpatient medications.  On 
hospital day #2 he was able to tolerate clear liquids, and all 
medications were converted from IV to PO.  He was sent home on 
clear liquids, and po dilaudid for pain and zofran for nausea.
.
#) Respiratory Alkalosis with concurrent metabolic acidosis and 
anion gap acidosis:  Primary respiratory alkalosis seen on 
admission VBG, likely acute due to hyperventilation secondary to 
abdominal pain and anxiety.  On admission chem 7, patient with 
evidence of  anion gap acidosis, which raised concern for either 
lactic acidosis since it was elevated at 2.9 or possibly 
unrecognized DKA.  After pancreatic transplant he had not needed 
any insulin, but had an transiently elevated fingerstick and his 
urine had 1000 glucose and 150 ketones at the time of admission. 
 After fluid resuscitation with normal saline, his lactate 
normalized, his anion gap closed and remainder of his 
fingersticks were all under 150.  On repeat urinalysis he no 
longer had any glucose in his urine.  Also, once his pain was 
controlled, his respiratory rate normalized, helping to correct 
the primary respiratory alkalosis. 
.
#) Electrolyte Abnormalities: on admission patient was found to 
have a phosphorous of 0.7, which was repleted with IV 
phosphorous.  The etiology of his hypophosphatemia was thought 
to be due to hyperventilation and respiratory alkalosis, which 
led to a decrease in CO2 in cells causing a rise in 
intracellular pH.  The increased intracellular pH turns on 
phosphofructokinase and glycolysis, leading to depletion of 
serum phosphorous.  After initial repletion with IV phosphorous, 
he did not require further repletion.  
.
#) Pancreatic Transplant: patient is status post pancreatic 
transplant on ___, initial tacrolimus levels were 
subtherapeutic as he had been unable to keep his medications 
down at home.  The dosing was changed, so the capsules were 
broken apart and the powder placed sublingually, and repeat 
tacrolimus level was 18.5.  Once his nausea resolved, he was 
also again able to tolerate his rapamune.  
 
Medications on Admission:
1. Bactrim 80-400 mg Tablet PO Daily
2. Diazepam 10 mg PO Q6H PRN anxiety.
3. Dronabinol 10 mg PO TID
4. Gabapentin 600 mg PO Q8H
5. Reglan (Metoclopramide) 20 mg PO QID PRN nausea.
6. Prograf (Tacrolimus) 3 mg PO Q12H
7. Omeprazole E.C. 20 mg PO BID
8. Aspirin 81 Chewable tab PO Daily
9. Rapamune (Sirolimus) 3 mg PO daily
10. Phenergan (promethazine) 25 mg PO Q8H PRN nausea per OMR, 
12.5mg per ED med list
11. Cymbalta (Duloxetine) E.C. 90 mg PO Daily
12. Compazine (Prochlorperazine maleate) 10 mg PO Q12H PRN 
nausea.
13. Fentanyl 50 mcg/hr Transdermal Q72H
14. Nepro 0.08-1.80 gram-kcal/mL Liquid: One PO daily
15. Topamax 25mg sprinkle cap PO daily
16. Fludrocortisone 0.1mg daily
17. Zofran (Ondansetron) 4mg QID PRN nausea
18. Axert (almotriptan) 12.5mg PRN
19. VitD 50,000U PO 1 capsule for 8 weeks
20. Kayexalate (Sodium Polystyrtene Sulfonate Powder) 15gms as 
directed PRN dispense 464 gm bottle
 
Discharge Medications:
1. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
4. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. Sirolimus 1 mg Tablet Sig: Three (3) Tablet PO DAILY (Daily). 
 
6. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Nepro 0.08-1.80 gram-kcal/mL Liquid Sig: One (1) ML PO Daily  
().  
8. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Tacrolimus 1 mg Capsule Sig: Three (3) Capsule PO Q12H (every 
12 hours).  
10. Dronabinol 2.5 mg Capsule Sig: Four (4) Capsule PO TID (3 
times a day) as needed for Nausea.  
11. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day) as needed for Nausea.  
12. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every six (6) hours as needed for Nausea.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*
13. Promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for Nausea.  
14. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1)  Transdermal 
every ___ (72) hours.  
15. Dilaudid 2 mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain: Please do not drive or operate machinery 
while taking this medication.  .
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Abdominal pain secondary to gastroparesis
2. Acute Respiratory Alkalosis with concurrent Metabolic Anion 
Gap Acidosis

 
Discharge Condition:
At the time of discharge the patient's pain was well controlled 
and he was able to tolerate oral pain medications, had tolerated 
clear liquids without difficulty, was able to take all his 
medications without difficulty and was considered medically 
clear for discharge. 

 
Discharge Instructions:
You were admitted to ___ with abdominal pain secondary to 
gastroparesis, since you had not been eating and were in a 
significant amount of abdominal pain, you also had some 
electrolytes imbalances and acid/base imbalances.  The 
electrolyte and acid/base imbalances, were corrected with IV 
fluids and electrolyte repletion.  Your pain and nausea were 
controlled initially with IV medications, as you were feeling 
better your pain medications were changed to oral medications 
and you were able to tolerate clear fluids without difficulty.  
.
Changes made to your medication regimen: 
1. Dilaudid ___ added for a short course for pain control
2. Zofran tablets given for nausea
--In the hospital we did not give you any compazine, since you 
had an prolongation of your QT interval on EKG.  
.
Please call your doctor or return to the hospital if you have 
fever or chills, worsening nausea or abdominal pain, are unable 
to tolerate your medications, are unable to keep down fluids, 
chest pain, trouble breathing or any other concerning symptoms.  

 
Followup Instructions:
___